US07723369B2
5-{3-[2-[4-(6-Chloro-pyridazin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one (38 mg, 0.05 mmol) was treated as described in general procedure L using 2-cyclohexyl ethanol (35 μL, 0.25 mmol) to give 5-{3-[2-{4-[6-(2-cyclohexyl-ethoxy)-pyridazin-3-yl]-benzyl}-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one.

reactant | 5-{3-[2-[4-(6-Chloro-pyridazin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | 0.05 mmol, 38 mg | ClC1=CC=C(N=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(N(S2(=O)=O)COCC[Si](C)(C)C)=O)C=C1 | C34H33Cl3N6O4SSi
reactant | 2-cyclohexyl ethanol | 0.25 mmol, 35 μL | C1(CCCCC1)CCO | C8H16O
product | 5-{3-[2-{4-[6-(2-cyclohexyl-ethoxy)-pyridazin-3-yl]-benzyl}-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | C1(CCCCC1)CCOC1=CC=C(N=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(N(S2(=O)=O)COCC[Si](C)(C)C)=O)C=C1 | C42H48Cl2N6O5SSi
